US09168245B2
Synthesis of intermediate V-e: 2′-Methoxy-4′-methyl-4-oxazol-5-yl-[2,3′]bipyridinyl
An oven-dried flask under argon was charged with the 2-bromo-4-oxazol-5-yl-pyridine (Intermediate II-c, 461 mg, 2.07 mmol), 2-methoxy-4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine V-d (510 mg, 2.07 mmol), K3PO4 (2.82 g, 13.3 mmol), Pd(OAc)2 (51 mg, 0.225 mmol), Davephos (89 mg, 0.225 mmol) in iPrOH (5 mL) and water (3 mL). After 40 min at 100° C., the mixture was cooled to room temperature, diluted with water and extracted with EtOAc then washed with brine. The organics were dried (MgSO4), filtered and evaporated before purification by column chromatography (SiO2, 30% to 100% EtOAc in cyclohexane) to afford the desired product V-e as an off-white solid (240 mg, 43%). 1H NMR (300 MHz, CDCl3) δ 8.78 (d, J=4.8 Hz, 1H), 8.10 (d, J=4.8 Hz, 1H), 8.01 (s, 1H), 7.59 (d, J=4.9 Hz, 2H), 7.51 (d, J=4.9 Hz, 1H), 6.86 (d, J=4.9 Hz, 1H), 3.88 (s, 3H), 2.16 (s, 3H).

reactant | 2-bromo-4-oxazol-5-yl-pyridine | 2.07 mmol, 461 mg | BrC1=NC=CC(=C1)C1=CN=CO1 | C8H5BrN2O
reactant | 2-methoxy-4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | COC1=NC=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C13H20BNO3
reactant | K3PO4 | 13.3 mmol, 2.82 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Davephos | 0.225 mmol, 89 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
solvent | water | 3 mL | O | H2O
catalyst | Pd(OAc)2 | 0.225 mmol, 51 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2′-Methoxy-4′-methyl-4-oxazol-5-yl-[2,3′]bipyridinyl | COC1=NC=CC(=C1C1=NC=CC(=C1)C1=CN=CO1)C | C15H13N3O2
